US07396953B2
Dissolve the trisylhydrazone derivative of acetone (8.0 g, 23.7 mmol) in 70 mL of DME at −78° C. Add butyllithium (29.6 mL, 47.4 mmol, 2 eq.) dropwise. Stir the mixture at −60° C. for 10 min, cool to −78° C., then add 1-iodo-3-methylbutane (3.13 mL, 23.7 mmol, 1 eq.) dropwise. Stir the mixture overnight at −65° C., cool to −78° C., then treat successively with TMEDA (12.5 mL, 82.3 mmol, 3.5 eq.), then BuLi (16.3 mL, 26.1 mmol, 1.1 eq.). Stir this mixture for 20 min at −78° C., then heat to 0° C. and maintain at this temperature until evolution of nitrogen ceases (˜5 min). Then cool the reaction mixture to −78° C. and add 1,2-dibromoethane (6.6 mL, 35.5 mmol, 1.5 eq). Heat the mixture slowly to 0° C., then hydrolyze with aqueous NaCl. After extraction (Et2O) and washing (twice with water then once with saturated NaCl solution), dry the solution over MgSO4 and evaporate. Then chromatograph the residue on silica gel (eluent: cyclohexane). The brominated derivative (E)-2-bromo-6-methyl-hept-2-ene is obtained in the form of a slightly yellow oil (2.5 g, 57%).

reactant | acetone | 23.7 mmol, 8.0 g | CC(=O)C | C3H6O
reactant | butyllithium | 47.4 mmol, 29.6 mL, 2 eq. | C(CCC)[Li]
reactant | 1-iodo-3-methylbutane | 23.7 mmol, 3.13 mL, 1 eq. | ICCC(C)C | C5H11I
reactant | TMEDA | 82.3 mmol, 12.5 mL, 3.5 eq. | CN(C)CCN(C)C | C6H16N2
reactant | BuLi | 26.1 mmol, 16.3 mL, 1.1 eq. | [Li]CCCC
reactant | 1,2-dibromoethane | 35.5 mmol, 6.6 mL, 1.5 eq | BrCCBr | C2H4Br2
reactant | NaCl | [Na+].[Cl-]
solvent | DME | 70 mL | COCCOC | C4H10O2
product | (E)-2-bromo-6-methyl-hept-2-ene | Br\C(\C)=C\CCC(C)C | C8H15Br
